US03985757
(4-Ethoxy-1H-pyrazolo[3,4-b]pyridin-5-yl)-2-thienylmethanone
3.5 g. of [4-ethoxy-1-(2-furanylmethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-thienylmethanone (0.01 mol.) are treated with 1.22 g. of selenium dioxide (0.011 mol.) in 20 ml. of diethyleneglycol dimethylether at reflux temperature for 1.5 hours with stirring. The precipitated selenium is filtered off and the solution is evaporated to dryness in vacuo. The remaining product, (4-ethoxy-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-thienylmethanone, is recrystallized from butanol, yield 2 g. (75%); m.p. 202°-205°.

reactant | [4-ethoxy-1-(2-furanylmethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-thienylmethanone | 0.01 mol | C(C)OC1=C2C(=NC=C1C(=O)C=1SC=CC1)N(N=C2)CC=2OC=CC2 | C18H15N3O3S
reactant | selenium dioxide | 0.011 mol | [Se](=O)=O | O2Se
solvent | diethyleneglycol dimethylether | COCCOCCOC | C6H14O3
product | (4-Ethoxy-1H-pyrazolo[3,4-b]pyridin-5-yl)-2-thienylmethanone | C(C)OC1=C2C(=NC=C1C(=O)C=1SC=CC1)NN=C2 | C13H11N3O2S
